US08383637B2
2-(2-Amino-5-benzoyl-benzylamino)-ethanesulfonic acid cyclohexyl-methyl-amide
A mixture of 2-(5-benzoyl-2-nitro-benzylamino)-ethanesulfonic acid cyclohexyl-methyl-amide (0.009 mol) in methanol (150 mL) was hydrogenated with 10% Pd/C (1 g) as a catalyst in the presence of thiophene solution (1 mL). After uptake of H2 (3 equiv.), the catalyst was filtered off, and the filtrate was evaporated. The residue was purified by column chromatography over Biotage (eluent: 98:2 CH2Cl2:CH3OH). The purest product fractions were collected and the solvent was evaporated to yield the title compound as a residue.

reactant | 2-(5-benzoyl-2-nitro-benzylamino)-ethanesulfonic acid cyclohexyl-methyl-amide | 0.009 mol | C1(CCCCC1)N(S(=O)(=O)CCNCC1=C(C=CC(=C1)C(C1=CC=CC=C1)=O)[N+](=O)[O-])C | C23H29N3O5S
reactant | thiophene | 1 mL | S1C=CC=C1 | C4H4S
solvent | methanol | 150 mL | CO | CH4O
catalyst | Pd/C | 1 g | [Pd] | Pd
product | 2-(2-Amino-5-benzoyl-benzylamino)-ethanesulfonic acid cyclohexyl-methyl-amide | C1(CCCCC1)N(S(=O)(=O)CCNCC1=C(C=CC(=C1)C(C1=CC=CC=C1)=O)N)C | C23H31N3O3S
